US09024027B2
Step 2: Preparation of ((R)-2-(3,5-dichloropyridin-4-yl)-1-(3,4-dimethoxyphenyl)ethyl) 2-(6-methoxynaphthalen-2-yl)propanoate (2)
2-(3,5-dichloropyridin-4-yl)-1-(3,4-dimethoxyphenyl)ethanol (50 g, 152 mmol), (R)-2-(6-methoxynaphthalen-2-yl)propanoic acid (38.6 g, 168 mmol), DMAP (20.5 g, 168 mmol), and EDC (43.8 g, 229 mmol) were dissolved in DMF (300 ml), and the reaction mixture was stirred at RT for 2 hours. Thereafter, water (500 ml) was added, and the solution stirred till complete precipitation occurs. The solid was filtered and dissolved in DCM (500 ml). The organic solution was washed with aqueous HCl 1N (2×500 ml), saturated aqueous NaHCO3 solution (500 ml) and dried over Na2SO4. The solvent was evaporated under vacuum and the solid residue sonicated in EtOH (300 ml) and triturated for 1 hour. The resulting precipitate was collected by filtration and dried under vacuum at 40° C. for 4 h to give 79 g (99% yield) of the title compound, as diastereoisomeric mixture.

reactant | 2-(3,5-dichloropyridin-4-yl)-1-(3,4-dimethoxyphenyl)ethanol | 152 mmol, 50 g | ClC=1C=NC=C(C1CC(O)C1=CC(=C(C=C1)OC)OC)Cl | C15H15Cl2NO3
reactant | (R)-2-(6-methoxynaphthalen-2-yl)propanoic acid | 168 mmol, 38.6 g | COC=1C=C2C=CC(=CC2=CC1)[C@H](C(=O)O)C | C14H14O3
reactant | EDC | 229 mmol, 43.8 g
reactant | water | 500 ml | O | H2O
catalyst | DMAP | 168 mmol, 20.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | ((R)-2-(3,5-dichloropyridin-4-yl)-1-(3,4-dimethoxyphenyl)ethyl) 2-(6-methoxynaphthalen-2-yl)propanoate | 79 g, 99% yield | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)O[C@H](CC1=C(C=NC=C1Cl)Cl)C1=CC(=C(C=C1)OC)OC)C | C29H27Cl2NO5
